US07572811B2
4-(2-Ethyl-4-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester is refluxed in 48% HBr for 2 hours. After concentration, the residue is dissolved in DCM and (Boc)2O (1.5 eq) and triethylamine (4 eq) are added. The resulting mixture is stirred at room temperature for 30 minutes. After aqueous workup, flash column chromatography (30% EtOAc/hexane) gave 4-(2-Ethyl-4-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester. MS: (ES+): 307.2 (M+1)+.

reactant | 4-(2-Ethyl-4-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)OC)CC | C18H28N2O3
reactant | (Boc)2O | 1.5 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 4 eq | C(C)N(CC)CC | C6H15N
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | HBr | Br | BrH
product | 4-(2-Ethyl-4-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)O)CC | C17H26N2O3
